US07687491B2
(11b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-methylthiophene-2-carboxaldehyde
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 10 (10b) using t-butyl(dimethyl) [(4-methyl-2-thienyl)methoxy]silane (2.5 g, 10 mmol) that was obtained in Example 11 (11a), 1.6 M solution of n-butyllithium in hexane (7.8 mL, 12 mmol), and N,N-dimethylformamide (1.6 mL, 21 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (2.5 g) in a yield of 89% as a pale yellowish oily product.

reactant | t-butyl(dimethyl) [(4-methyl-2-thienyl)methoxy]silane | 10 mmol, 2.5 g | C(C)(C)(C)[Si](OCC=1SC=C(C1)C)(C)C | C12H22OSSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 12 mmol, 7.8 mL | CCCCCC | C6H14
reactant | N,N-dimethylformamide | 21 mmol, 1.6 mL | CN(C=O)C | C3H7NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-methylthiophene-2-carboxaldehyde | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C=O)C | C13H22O2SSi
